Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]1([H:9])[H:10],-1.71004330127
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.478836473169999
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([O:10])([H:11])[H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9](=[O:10])[H:11],0.897087981406
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:4],3.74387965241
[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5][O:6][H:7],6.9554550822
[C:7]#[C:8][O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-4.54088479666
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8]>>[C:2]([H:3])#[C:4][O:5][C:6]#[C:7][H:8].[O:1],3.34797901367
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.53091125217
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.72436596035
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[O:2],1.41370480807
[H:1][C:2](=[O:3])[C:9]([C:8][O:7][C:4]([H:5])[H:6])([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]1([H:10])[H:11],-0.386892193481
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.95198630561
[C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10],-5.63966428698
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8].[H:9],5.548794168940001
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[O:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-0.36728092849
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3],2.48755120108
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.11316608
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6],3.60267771188
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.99137181003
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.43277320552
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.5252313872299998
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.96823102734
[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:2][O:3][C:4]#[C:5][O:6][H:7].[H:1],3.56217303804
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][O:2],5.307568317069999
[C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.906971587999999
[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],6.029764642490001
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[O:3],0.707545876569
[C:2]([C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-7.91979467
